** sch_path: /foss/designs/engn1600-team1/CAD3/wem_inverter.sch
.subckt wem_inverter VDD WEM WEMb VSS
*.PININFO WEM:I WEMb:O VDD:B VSS:B
M1 WEMb WEM VDD VDD pfet_03v3 L=0.28u W=2.52u nf=1 m=1
M2 WEMb WEM VSS VSS nfet_03v3 L=0.28u W=1.26u nf=1 m=1
.ends
